US08076491B2
4-nitro-1H-pyrazole (500 mg, 4.4 mmol), 4-methylbenzene-1-sulfonyl chloride (840 mg, 4.4 mmol), and triethylamine (510 mg, 5 mmol) were stirred in DMF (25 mL) at 80° C. for 1 hour. The reaction was cooled, diluted with H2O (200 mL) and extracted with ethyl acetate (3×, 100 ml). The organic phase was washed with aqueous 1N HCl (200 mL) and H2O (200 mL), dried over sodium sulfate, filtered and concentrated on the rotovap. The solid was triturated with hexanes to afford 4-nitro-1-tosyl-1H-pyrazole (600 mg, 50%) as an off white solid. 1H NMR (DMSO-d6, 400 MHz) 2.40 (s, 3H), 7.52 (d, 2H, J=8.4 Hz), 7.98 (d, 2H, J=8.8 Hz), 8.57 (s, 1H), 9.58 (s, 1H).

reactant | 4-nitro-1H-pyrazole | 4.4 mmol, 500 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 4-methylbenzene-1-sulfonyl chloride | 4.4 mmol, 840 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 5 mmol, 510 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 4-nitro-1-tosyl-1H-pyrazole | 600 mg, 50% | [N+](=O)([O-])C=1C=NN(C1)S(=O)(=O)C1=CC=C(C)C=C1 | C10H9N3O4S
